US07091227B2
1-(7-Isopropoxy-2-benzothiazolyl)-3-ethylurea
A solution of 1-(6-bromo-7-isopropoxy-2-benzothiazolyl)-3-ethylurea (0.036 g, 0.10 mmol) in 0.5 mL DME was cooled down to about −78° C., and was treated with a solution of 1.6 M n-BuLi in hexanes (0.16 mL, 0.26 mmol, 2.6 eq). It was stirred at the temperature for about 20 min, then a solution of N-chlorosuccinimide (NCS) (0.015 g, 0.11 mmol, 1.1 eq) in 0.5 mL DME was added. It was warmed up to about 0° C. for about 0.5 hour. It was taken up in MeOH and purified by HPLC to give 0.007 g (25%) of the title compound. LC/MS 279.9 (M+1); LC retention time 3.10 min.

reactant | 1-(6-bromo-7-isopropoxy-2-benzothiazolyl)-3-ethylurea | 0.10 mmol, 0.036 g | BrC1=C(C2=C(N=C(S2)NC(=O)NCC)C=C1)OC(C)C | C13H16BrN3O2S
reactant | n-BuLi | 1.6 M | [Li]CCCC
reactant | N-chlorosuccinimide | 0.11 mmol, 0.015 g, 1.1 eq | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DME | 0.5 mL | COCCOC | C4H10O2
solvent | DME | 0.5 mL | COCCOC | C4H10O2
solvent | MeOH | CO | CH4O
product | 1-(7-Isopropoxy-2-benzothiazolyl)-3-ethylurea | 0.007 g, 25% | C(C)(C)OC1=CC=CC=2N=C(SC21)NC(=O)NCC | C13H17N3O2S
